US07202364B2
A mixture of 2-nitro-7-trifluoromethylnaphthalene (650 mg, 2.7 mmol) and Raney nickel (65 mg) in methanol (10 mL) is stirred under H2 (1 atm) for 1 hour. Filtration of the catalyst and evaporation of the solvent gives 7-trifluoromethyl-2-aminonaphthalene as a yellow solid.

reactant | 2-nitro-7-trifluoromethylnaphthalene | 2.7 mmol, 650 mg | [N+](=O)([O-])C1=CC2=CC(=CC=C2C=C1)C(F)(F)F | C11H6F3NO2
catalyst | Raney nickel | 65 mg | [Ni] | Ni
solvent | methanol | 10 mL | CO | CH4O
product | 7-trifluoromethyl-2-aminonaphthalene | FC(C1=CC=C2C=CC(=CC2=C1)N)(F)F | C11H8F3N
